US09399636B2
Preparation of 2-((6-(azetidin-1-yl)-4-(4-cyanotetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile
Reaction of azetidine with 2-((6-chloro-4-(4-cyanotetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile (50.0 mg, 0.147 mmol) following procedure of Method A afforded the target compound as a colorless solid (8.9 mg, 17%); 1H NMR (400 MHz, DMSO) δ 9.95 (br s, 1H), 8.48 (s, 1H), 8.42 (d, J=5.0 Hz, 1H), 7.23 (dd, J=5.0, 1.4 Hz, 1H), 6.89 (d, J=1.2 Hz, 1H), 5.99 (d, J=1.2 Hz, 1H), 4.06-3.98 (m, 6H), 3.70-3.59 (m, 2H), 2.41-2.28 (m, 2H), 2.08-1.96 (m, 4H); ESI-LRMS m/z [M+1]+=361.

reactant | azetidine | N1CCC1 | C3H7N
reactant | 2-((6-chloro-4-(4-cyanotetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile | 0.147 mmol, 50.0 mg | ClC1=CC(=CC(=N1)NC=1C=C(C#N)C=CN1)C1(CCOCC1)C#N | C17H14ClN5O
product | 2-((6-(azetidin-1-yl)-4-(4-cyanotetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile | 8.9 mg, 17% | N1(CCC1)C1=CC(=CC(=N1)NC=1C=C(C#N)C=CN1)C1(CCOCC1)C#N | C20H20N6O
